US05536874
Preparation of 2-(4'-isobutylphenyl)propionic acid (ibuprofen)
PdCl2 (35.5 mg, 0.2 mmol) and the sodium salt of trisulfonated triphenylphosphine (TPPTS) [1.136 g, 2 mmol, P/Pd=10] are charged into a tube under argon. To the mixture is added 50 g of deairated distilled H2O. After 25 minutes of stirring at room temperature, the PdCl2 is completely dissolved and the mixture becomes bright yellow, indicating complexation of palladium (II) with TPPTS (pH of the solution=3.42). The catalyst solution, 1-(4-isobutyl-phenyl)ethanol (IBPE) [445.7 mg, 2.5 mmol, IBPE/Pd=12.5], p-toluenesulfonic acid monohydrate (190.2 rag, 1 mmol, H+ /IBPE=0.4) and deairated distilled H2O (90.4 g, [Pd]=150 ppm in the aqueous solution) are charged into a 300 ml Hastelloy C autoclave under argon. After a number of pressurizing-depressurizing cycles with CO to remove the last air, the autoclave is pressured to 30 bar (final pressure at reaction temperature) and contents are heated to 90° C. for 20 hours with stirring. The autoclave is cooled to room temperature, CO vented, and the reaction mixture is removed. Alter extraction with diethylether, the organic layer is separated from the aqueous layer (pH=2.21) and is dried over magnesium sulfate. The organic fraction, alter concentration under reduced pressure, is analyzed by HPLC and contains IBPE, 2-(4-isobutyl-phenyl)propionic acid (ibuprofen), 3-(4-isobutylphenyl)propionic acid (3-IPPA) which is a linear isomer of ibuprofen and traces of 4-isobutylstyrene. Conversion (based on IBPE) is 49%. Selectivity of ibuprofen is 61.5%. Selectivity of 3-IPPA is 38.3%.

reactant | sodium | [Na] | Na
reactant | 1-(4-isobutyl-phenyl)ethanol | 2.5 mmol, 445.7 mg | C(C(C)C)C1=CC=C(C=C1)C(C)O | C12H18O
reactant | p-toluenesulfonic acid monohydrate | 1 mmol | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | H2O | O | H2O
catalyst | PdCl2 | 0.2 mmol, 35.5 mg | Cl[Pd]Cl
catalyst | Pd | [Pd] | Pd
catalyst | Hastelloy C | 300 ml | [Cr].[Co]
product | 2-(4'-isobutylphenyl)propionic acid | C(C(C)C)C1=CC=C(C=C1)C(C(=O)O)C | C13H18O2
